US08304546B2
4-(2-Aminoethyl)morpholine (217 mg, 1.7 mmol) was added to a DMF solution (10 ml) of [3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]acetic acid (580 mg, 1.39 mmol), 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate (HATU, 790 mg, 2.1 mmol) and triethylamine (5 ml). The mixture was stirred overnight at room temperature and then concentrated under reduced pressure. Water and ethyl acetate were added to the residue, followed by separation. The thus-obtained organic layer was washed with water and concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=10:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate, giving a pale brown powder of 2-[3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]-N-(2-morpholin-4-ylethyl)acetamide (115 mg, yield: 16%).

reactant | 4-(2-Aminoethyl)morpholine | 1.7 mmol, 217 mg | NCCN1CCOCC1 | C6H14N2O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | [3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]acetic acid | 1.39 mmol, 580 mg | COC1=CC=C(C=C1)C1=CN(C2=C(C=C3CCCOC3=C2C1=O)OCCC)CC(=O)O | C24H25NO6
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate | 2.1 mmol, 790 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 2-[3-(4-methoxyphenyl)-4-oxo-10-propoxy-7,8-dihydro-4H,6H-5-oxa-1-aza-phenanthren-1-yl]-N-(2-morpholin-4-ylethyl)acetamide | 115 mg, yield: 16% | COC1=CC=C(C=C1)C1=CN(C2=C(C=C3CCCOC3=C2C1=O)OCCC)CC(=O)NCCN1CCOCC1 | C30H37N3O6
